US05932590
Preparation of 1,2,3,4-Tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide hydrochloride
A solution of 2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide (0.25 g, 0.52 mmol) in EtOAc (15 mL) was cooled to -20° C. The solution was saturated with HCl gas and stirred at 0° C. for 0.5 hr and 25° C. for an additional 0.5 hr. The reaction was evaporated in vacuo to obtain the title compound which was used without further purification.

reactant | 2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide | 0.52 mmol, 0.25 g | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2N(CC3=CC=CC=C3C2)C(=O)OC(C)(C)C)C=C1 | C28H31N5O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 1,2,3,4-Tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide hydrochloride | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2NCC3=CC=CC=C3C2)C=C1 | InChI=1S/C23H23N5O.ClH/c24-12-17-5-7-18(8-6-17)15-28-16-25-14-21(28)9-10-26-23(29)22-11-19-3-1-2-4-20(19)13-27-22;/h1-8,14,16,22,27H,9-11,13,15H2,(H,26,29);1H/t22-;/m0./s1
